US07071218B2
Sulfuric acid (2 mL, 0.033 mol) was added dropwise under argon to 4-bromoanisole (14.6 mL, 0.117 mol). The mixture was warmed to 40–43° C. (warm water bath) and 3-chloro-2-methyl propene was added dropwise in 4 equal portions over 2 hrs. After 2 hrs at 40–43° C. the solution was diluted with dichloromethane and washed successively with water, saturated aqueous NaHCO3, water and brine, dried (Mg2SO4), filtered and evaporated. The residue was crystallized from hexanes to give 14.1 g of 4-bromo-2-(2-chloro-1,1-dimethyl-ethyl)-1-methoxy-benzene. The mother liquor was further purified on silica gel (10% ethyl acetate in hexane) to afford additional 4.8 g of product. 58% yield. 1H NMR (300 MHz; CDCl3): δ 1.43 (s, 6 H), 3.82 (s, 3 H), 3.93 (s, 2 H), 6.75 (dd, J=2.4 Hz and 7.2 Hz, 1 H), 7.32 (m, 2 H).

reactant | Sulfuric acid | 0.033 mol, 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromoanisole | 0.117 mol, 14.6 mL | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | water | O | H2O
reactant | 3-chloro-2-methyl propene | ClCC(=C)C | C4H7Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-bromo-2-(2-chloro-1,1-dimethyl-ethyl)-1-methoxy-benzene | 14.1 g | BrC1=CC(=C(C=C1)OC)C(CCl)(C)C | C11H14BrClO
